US04163849
6-chloro2-(4-allyl-1-piperazinyl)-pyrazine hydrochloride
A stirred suspension of 6-chloro-2-(1-piperazinyl)-pyrazine hydrochloride (2.35 g, 10.0 mmol) and 2.8 g potassium carbonate in 25 ml of acetonitrile at 50° C. is treated with 0.9 ml (10.4 mmol) allylbromide. After 4 hours at 50° C. the mixture is concentrated under vacuum and the residue partitioned between water and chloroform. The chloroform extract is chromatographed on silica gel. Elution with 1% methanol-chloroform gives fractions containing 0.4 g (15%) title salt, mp 233.5°-234° C. by treatment with hydrogen chloride in ethanol-isopropanol.

reactant | 6-chloro-2-(1-piperazinyl)-pyrazine hydrochloride | 10.0 mmol, 2.35 g | Cl.ClC1=CN=CC(=N1)N1CCNCC1
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | allylbromide | 10.4 mmol, 0.9 ml | C(C=C)Br | C3H5Br
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | ethanol isopropanol | C(C)O.C(C)(C)O
product | 6-chloro2-(4-allyl-1-piperazinyl)-pyrazine hydrochloride | Cl.ClC1=CN=CC(=N1)N1CCN(CC1)CC=C | InChI=1S/C11H15ClN4.ClH/c1-2-3-15-4-6-16(7-5-15)11-9-13-8-10(12)14-11;/h2,8-9H,1,3-7H2;1H
